US05371086
(a) 4-Amino-3-(1-methylthio-2-nitroethenylamino)pyridine
3,4-Diaminopyridine (6.00 g, 55.0 mmol) and 1,1-bis(methylthio)-2-nitroethylene (10.0 g, 60.5 mmol) were dissolved in 60 ml of DMF and 10 ml of triethylamine, followed by reaction at 70° C. for 5 hours. The solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography [eluent: chloroform:methanol=2:1 (v/v)] to obtain 1.63 g of the intended product (yield: 13.1%)

reactant | 3,4-Diaminopyridine | 55.0 mmol, 6.00 g | NC=1C=NC=CC1N | C5H7N3
reactant | 1,1-bis(methylthio)-2-nitroethylene | 60.5 mmol, 10.0 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 4-Amino-3-(1-methylthio-2-nitroethenylamino)pyridine | 1.63 g, yield: 13.1% | NC1=C(C=NC=C1)NC(=C[N+](=O)[O-])SC | C8H10N4O2S
